US04783467
1-(4-Amino-3-bromo-5-methylphenyl)-2,4-dimethylimidazole. 0.5 H20
A solution of bromine (5.6 cm3) in glacial acetic acid (50 cm3) was added dropwise over 0.5 hours to a stirred solution of 1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole (20.3 g) and sodium acetate (9.02 g) in glacial acetic acid (200 cm3). After a further 0.5 hours, volatile material was removed in vacuo, and the residue was partitioned between chloroform (200 cm3) and 10% aqueous sodium hydroxide solution (to pH 10). The aqueous phase was further extracted with chloroform (2×100 cm3) and the combined and dried (MgSO4) organic extracts were evaporated in vacuo to afford a solid which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane:methanol, 19:1. Combination and evaporation of the appropriate fractions gave an oil which was triturated with ether to afford the title compound, m.p. 176°-180.5°. The mother liquors were evaporated and the residue was rechromatographed on silica, as before, to give a further crop of material (total yield 17.3 g).

reactant | bromine | 5.6 cm3 | BrBr | Br2
reactant | 1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole | 20.3 g | NC1=C(C=C(C=C1)N1C(=NC(=C1)C)C)C | C12H15N3
reactant | sodium acetate | 9.02 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 cm3 | C(C)(=O)O | C2H4O2
product | 1-(4-Amino-3-bromo-5-methylphenyl)-2,4-dimethylimidazole | NC1=C(C=C(C=C1C)N1C(=NC(=C1)C)C)Br | C12H14BrN3
